US08735579B2
(5-tert-butyl-2-methoxy-3-nitro-phenyl)-methanol
At approx. 10° C., 0.65 g sodium borohydride are added to a solution of 3.75 g 5-tert-butyl-2-methoxy-3-nitro-benzaldehyde in 15 ml dichloromethane and 15 ml of methanol. The solution is stirred for 2 h at ambient temperature and then evaporated down. The residue is combined with aqueous acetic acid and extracted with ethyl acetate. The combined extracts are washed with water and with saturated aqueous saline solution, dried (MgSO4) and evaporated to dryness.

reactant | sodium borohydride | 0.65 g | [BH4-].[Na+]
reactant | 5-tert-butyl-2-methoxy-3-nitro-benzaldehyde | 3.75 g | C(C)(C)(C)C=1C=C(C(=C(C=O)C1)OC)[N+](=O)[O-] | C12H15NO4
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | methanol | 15 ml | CO | CH4O
product | (5-tert-butyl-2-methoxy-3-nitro-phenyl)-methanol | C(C)(C)(C)C=1C=C(C(=C(C1)CO)OC)[N+](=O)[O-] | C12H17NO4
